US06995162B2
2,2,4-Trimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one
2,2-Dimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one (1.1 g) was mixed with MeI (850 mg, Aldrich), K2CO3 (1.38 g, Aldrich) and DMF (30 ml, Aldrich) at 40° C. for 48 h. The DMF was removed in vacuo and the residue was diluted with EtOAc (80 ml). The organic phase was washed with H2O (50 ml), aqueous Na2SO3 (50 ml) and brine (50 ml). The resulting solution was dried (MgSO4) and concentrated to provide the compound which was used as is.

reactant | 2,2-Dimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one | 1.1 g | CC1(OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-])C | C10H10N2O4
reactant | MeI | 850 mg | CI | CH3I
reactant | K2CO3 | 1.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 2,2,4-Trimethyl-6-nitro-4H-benzo[1,4]oxazin-3-one | CC1(OC2=C(N(C1=O)C)C=C(C=C2)[N+](=O)[O-])C | C11H12N2O4
